US05969151
(E)-3-[1-n-Butyl-5-(2-(2-carboxyphenyl)methoxy 4chlorophenyl]-1H-pyrazol-4-yl]-2-[(5-methoxy-2,3-dihydrobenzofuran-6-yl)methyl]-prop-2-enoic acid
Following the procedure of Example (1 u) except substituting Ethyl (E)-3-[1-n-Butyl-5-[2-(2-methoxycarbonyl)phenylmethoxy-4-chlorophenyl]-1H-pyrazol-4-yl]-2-[(5-methoxy-2,3-dihydrobenzofuran-&yl)methyl]-2-propenoate for ethyl (E)-[1-n-butyl-5-[2-[2-(methoxycarbonyl)-6-chlorophenylmethoxy]-4-chlorophenyl]-1H-pyrazol4-yl]-2-[(5-methoxy-2,3-dihydrobenzofuran-6-yl)methyl]-2-propenoate, the title compound was prepared in 90% yield as a white solid: Rf 0.58 (1:1 EtOAc/hexane with 1% AcOH); 1H NMR (400 MHz CDCl3) d 8.19 (d, 1H), 7.58 (s, 1H), 7.53 (s, 1H), 7.49 (t, 1H), 7.30 (m, 2H), 7.13 (m, 3H), 6.77 (s, 1H), 6.48 (s, 1H), 5.52 (bs, 2H), 4.45 (t, 2H), 3.92 (m, 2H) 3.82 (s, 3H), 3.80 (bs, 2H), 3.12 (t, 2H), 1.65 (m, 2H), 1.12 (m, 2H), 0.76 (t, 3H); MS(ESI) m/c 618 [M+H]+ ; mp: 116-118° C. Anal. (C34H33ClN2O7.0.5H2O) calcd: C, 65.22; H, 5.47; N, 4.47. found: C, 65.03; H, 5.33; N, 4.37.

reactant | ethyl (E)-[1-n-butyl-5-[2-[2-(methoxycarbonyl)-6-chlorophenylmethoxy]-4-chlorophenyl]-1H-pyrazol4-yl]-2-[(5-methoxy-2,3-dihydrobenzofuran-6-yl)methyl]-2-propenoate | C(CCC)N1N=CC(=C1C1=C(C=C(C=C1)Cl)OCC1=C(C=CC=C1Cl)C(=O)OC)/C=C(/C(=O)OCC)\CC1=CC2=C(CCO2)C=C1OC | C37H38Cl2N2O7
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | AcOH | CC(=O)O | C2H4O2
product | (E)-3-[1-n-Butyl-5-(2-(2-carboxyphenyl)methoxy 4chlorophenyl]-1H-pyrazol-4-yl]-2-[(5-methoxy-2,3-dihydrobenzofuran-6-yl)methyl]-prop-2-enoic acid | 90% yield | C(CCC)N1N=CC(=C1C1=C(C=C(C=C1)Cl)OCC1=C(C=CC=C1)C(=O)O)/C=C(/C(=O)O)\CC1=CC2=C(CCO2)C=C1OC | C34H33ClN2O7
